US07115750B1
2-(R)-[2-(N,N-Dimethylamino)ethy]-6-(4-[(4-methoxyphenyl)carbonyloxy]benzyloxy)tetralin
Diethyl azodicarboxylate (40% toluene solution, 0.95 g) was added dropwise to THF solution (6 ml) of 2-(R)-[2-(N,N-dimethylamino)ethyl]-6-hydroxytetralin (300 mg), 4-(hydroxymethyl)phenyl 4-methoxybenzoate (530 mg), and triphenylphosphine (430 mg) under ice-cooling. After stirring for 2 hours at room temperature, the reaction mixture was concentrated. The residue was purified using alumina column chromatography (development solvent; hexane˜hexane:ethyl acetate=10:1), and the titled compound (320 mg) was obtained after recrystallization (ethyl acetate-hexane).

reactant | Diethyl azodicarboxylate | 0.95 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-(R)-[2-(N,N-dimethylamino)ethyl]-6-hydroxytetralin | 300 mg | CN(C)CC[C@H]1CC2=CC=C(C=C2CC1)O | C14H21NO
reactant | 4-(hydroxymethyl)phenyl 4-methoxybenzoate | 530 mg | COC1=CC=C(C(=O)OC2=CC=C(C=C2)CO)C=C1 | C15H14O4
reactant | triphenylphosphine | 430 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 2-(R)-[2-(N,N-Dimethylamino)ethy]-6-(4-[(4-methoxyphenyl)carbonyloxy]benzyloxy)tetralin | 320 mg | CN(C)CC[C@H]1CC2=CC=C(C=C2CC1)OCC1=CC=C(C=C1)OC(=O)C1=CC=C(C=C1)OC | C29H33NO4
